US07906511B2
2-Amino-4-(tert-butyldimethylsilyloxymethyl)pyrimidine (Reference Compound No. 5-1)
2-Amino-4-hydroxymethylpyrimidine (750 mg, 6.0 mmol, Reference Compound No. 4-1) and tert-butyldimethylsilyl chloride (990 mg, 6.6 mmol) were suspended in anhydrous N,N-dimethylformamide (8.0 mL), then imidazole (0.90 g, 13 mmol) was added thereto and the mixture was stirred for 1 hour at room temperature. The reaction mixture was diluted with ethyl acetate (50 mL), washed twice with saturated aqueous sodium hydrogencarbonate solution (50 mL), and then washed with brine (50 mL), and dried over anhydrous magnesium sulfate. Then the solvent was evaporated under reduced pressure, the precipitated solid was filtered off with 50% ethyl acetate-n-hexane solution, and dried under reduced pressure to give 1.2 g of the title Reference Compound as a white solid (Yield: 84%).

reactant | 2-Amino-4-hydroxymethylpyrimidine | NC1=NC=CC(=N1)CO | C5H7N3O
reactant | tert-butyldimethylsilyl chloride | 6.6 mmol, 990 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 13 mmol, 0.90 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 8.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-(tert-butyldimethylsilyloxymethyl)pyrimidine | Yield: 84% | NC1=NC=CC(=N1)CO[Si](C)(C)C(C)(C)C | C11H21N3OSi
